US08378104B2
2-(isoquinolin-5-yl)-4-{1-[1-(2-methoxyethyl)piperidin-4-yl]-1H-pyrazol-4-yl}furo[2,3-c]pyridin-7-amine
A vial was charged with 1-(2-methoxyethyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine (32.4 mg, 96.8 μmol) and 4-iodo-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine (25.0 mg, 64.6 μmol) in 1,4-dioxane (0.43 mL) and H2O (0.1 mL), potassium carbonate (13 mg, 97.0 μmol) and (1,1′-bis(diphenylphosphino)ferrocene) palladium dichloride (5 mg, 6 μmol) was evacuated and filled with argon three times. The mixture was heated in a microwave reactor at 100° C. for 40 min. The reaction mixture was partitioned between EtOAc and brine/water and separated. The aqueous layer was extracted with EtOAc (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash chromatography (0 to 10% 7 N NH3/MeOH:EtOAc) afforded 1.9 mg (6%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 9.33 (s, 1 H), 8.57 (d, J=6.06 Hz, 1 H), 8.49 (d, J=6.06 Hz, 1 H), 8.34 (dd, J=7.33, 1.26 Hz, 1 H), 8.23 (d, J=8.34 Hz, 1 H), 8.13 (s, 1 H), 7.92 (d, J=9.09 Hz, 2 H), 7.82 (t, J=7.71 Hz, 1 H), 7.49 (s, 1 H), 4.25 (dt, J=15.54, 7.89 Hz, 1 H), 3.58 (t, J=5.56 Hz, 2 H), 3.37 (s, 3 H), 3.15 (d, J=12.13 Hz, 2 H), 2.66 (t, J=5.56 Hz, 2 H), 2.26-2.35 (m, 2 H), 2.13-2.20 (m, 4 H); MS (ESI): 469.23 [M+H]+; HPLC tR=0.77 min (TOF: polar—3 min).

reactant | 1-(2-methoxyethyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine | 96.8 μmol, 32.4 mg | COCCN1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H30BN3O3
reactant | 4-iodo-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine | 64.6 μmol, 25.0 mg | IC1=C2C(=C(N=C1)N)OC(=C2)C2=C1C=CN=CC1=CC=C2 | C16H10IN3O
reactant | potassium carbonate | 97.0 μmol, 13 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 0.43 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.1 mL | O | H2O
catalyst | (1,1′-bis(diphenylphosphino)ferrocene) palladium dichloride | 6 μmol, 5 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(isoquinolin-5-yl)-4-{1-[1-(2-methoxyethyl)piperidin-4-yl]-1H-pyrazol-4-yl}furo[2,3-c]pyridin-7-amine | 1.9 mg, 6% | C1=NC=CC2=C(C=CC=C12)C1=CC=2C(=C(N=CC2C=2C=NN(C2)C2CCN(CC2)CCOC)N)O1 | C27H28N6O2
